US07323455B2
1-(2-Amino-5-bromophenyl)-1-pyridin-2-ylethanol
Prepared from 2-amino-5-bromophenyl methyl ketone and 2-pyridyllithium generally according to the procedure described in example 1. 1H NMR (DMSO-d6): δ 8.5 (d, J=3.99 Hz, 1H), 7.77 (dt, J=7.77, 1.79 Hz, 1H), 7.64 (d, J=7.96 Hz, 1H), 7.30 (d, J=2.37 Hz, 1H), 7.21-7.25 (m, 1H), 7.06 (dd, J=8.49, 2.36 Hz, 1), 6.47 (d, J=8.51 Hz, 1H), 6.18 (s, 1H), 5.26 (s, 2H), 1.8 (s, 3H); MS (ESI) m/z 293/295, 1 Br pattern ([M+H]+).

reactant | 2-amino-5-bromophenyl methyl ketone | CC(=O)C1=C(C=CC(=C1)Br)N | C8H8BrNO
reactant | 2-pyridyllithium | N1=C(C=CC=C1)[Li]
product | 1-(2-Amino-5-bromophenyl)-1-pyridin-2-ylethanol | NC1=C(C=C(C=C1)Br)C(C)(O)C1=NC=CC=C1 | C13H13BrN2O
